Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
robotic assisted sacral colpopexy, lysis of adhesions, and 
cystoscopy 

 
History of Present Illness:
Ms. ___ is a ___ patient who is followed for a 
multi-year history of recurrent pelvic organ prolapse.  She was 
originally scheduled for surgical repair earlier this year, but 
due to deaths in the family, had postponed it. Now she can no 
longer retain a pessary and desires to pursue surgery. She notes 
urinary frequency and urgency, no incontinence.  + constipation. 


She had a vaginal prolapse repair several years ago at ___ 
___.  She has been seen by Dr. ___ had fit 
her with a pessary which she is wearing successfully for the 
last few years; however, she is looking for surgical repair now. 
 She also notes urinary frequency and urgency, although denies 
significant urinary incontinence, both stress and urge.  She 
goes to the bathroom every two and a half hours in the daytime 
and wakes up twice at night to urinate.  She does not have to 
wear a pad.

She denies recurrent bladder infections.  She states that her 
urine flow is hesitant.  She does feel like she empties her 
bladder.  She does have problems with chronic constipation and 
has tried to increase her dietary fiber, but to no avail.    She 
denies fecal incontinence.  She is occasionally sexually active. 
 She does experience vaginal dryness.

 
Past Medical History:
PAST MEDICAL HISTORY:
1.  History of ruptured aneurysm followed by neurology, has some
cognitive defects as a result, recent MRI showed no progressive
neurologic disease.
2.  Depression.
3.  Acid reflux.
4.  Hypercholesterolemia.
5.  Hypertension.
6.  Hypothyroidism.
7.  Vaginal atrophy.

Past Surgical History:  Cholecystectomy, TAHUSO, then a USO with
what sounds like a vaginal approach to prolapse repair including
anterior and posterior repair.

Past OB History:  Four pregnancies total, four vaginal
deliveries, four living children.  Birth weight of largest baby
delivered vaginally is 10 pounds, unknown for forceps or
vacuum-assisted vaginal delivery.

Past GYN History:  Menopause at age ___.

 
Social History:
___
Family History:
Sister, ovarian cancer.

 
Physical Exam:
Pre-operative Exam: 
Vital Signs:  Weight 155, height 64, blood pressure 130/62, 
pulse
is 60.
General:  Well developed, well groomed.
Psych:  Oriented x3, affect is normal.
Skin:    warm and dry.
Heart:  No peripheral edema or varicosities.  Pulse is normal.
Lungs:  Normal respiratory effort.  No use of accessory muscles.
Abdomen:  Soft, nontender, nondistended.  No masses, guarding, 
or rebound.  No hepatosplenomegaly, no hernia.  Vertical scar.
Genitourinary:  Vulva:  Normal hair pattern with no lesions 
except for atrophic changes.  Urethral Meatus:  No caruncle or 
prolapse.  
Urethra:  Nontender, no masses or exudate.  Bladder: 
Nonpalpable and nontender.  Vagina:  Atrophic, see POP-Q below,
scarring in both anterior and posterior vaginal walls consistent
with anterior repair and posterior repair.  Caliber and resting
tone are normal.  Cervix:  Surgically absent.  Uterus: 
Surgically absent.  Adnexa:  Surgically absent.  No masses
palpated.  Anus and Perineum:  No masses or tenderness.

 
POP-Q:  
Aa +2.5, Ba +3.5, C -5.
___ 6, PB 4, TVL 9.
Ap -2, Bp -2.

Post-operative exam:
Vital signs stable
General: NAD
Cardiac: RRR
Pulm: CTA
Abdomen: soft, appropriately tender, 5 robotic port incisions 
closed with steris, C/D/I
Ext: NE, NT
 
Pertinent Results:
No laboratory studies were required during this admission
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing robotic assisted sacral colpopexy, lysis of 
adhesions, and cystoscopy. Please see the operative report for 
full details. In the PACU, she noted some eye pain and redness 
which was evaluated by anaesthesia and attributed to scleral 
edema or corneal abrasion. This was managed conservatively with 
cold compresses and eye drops and improved over the course of 
her hospital stay. 

Immediately post-op, her pain was controlled with dilaudid and 
toradol and acetaminophen. On post-operative day 1, her urine 
output was adequate so her foley was removed and she passed a 
urogyn voiding trial with PVRs of 50 and 60 after voiding 300cc 
x 2. Her diet was advanced without difficulty and she was 
transitioned to oxycodone, motrin, and acetaminophen.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
--------------- --------------- --------------- ---------------
Active Medication list as of ___:
 
Medications - Prescription
AMLODIPINE - 5 mg Tablet - 1 Tablet(s) by mouth daily
BENZONATATE - 200 mg Capsule - 1 Capsule(s) by mouth q 6 hrs prn
cough
BENZONATATE - 100 mg Capsule - 1 Capsule(s) by mouth q6hrs prn
cough
BUPROPION HCL - 200 mg Tablet Extended Release - 1 Tablet(s) by
mouth twice a day
CITALOPRAM - 20 mg Tablet - 1 Tablet(s) by mouth qam
CODEINE-GUAIFENESIN - 100 mg-10 mg/5 mL Liquid - ___ tsp(s) by
mouth at hs as needed for cough
CONJUGATED ESTROGENS [PREMARIN] - 0.625 mg/gram Cream - 1 gram 
in
the vagina twice a week
DONEPEZIL - 5 mg Tablet - 1 Tablet(s) by mouth in the morning
with a good size meal
HYDROCODONE-ACETAMINOPHEN - 5 mg-500 mg Tablet - ___ Tablet(s) 
by
mouth Every 4 to 6 hours as needed for Pain Do not drink 
alcohol,
do not drive or operate machinery while taking this medication.
Do not take with tylenol
LEVOTHYROXINE - 25 mcg Tablet - 1 Tablet(s) by mouth daily
LORAZEPAM - 1 mg Tablet - 0.5 (One half) Tablet(s) by mouth in
the morning and at bed time
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 Capsule(s)
by mouth daily
SIMVASTATIN - 20 mg Tablet - 1 Tablet(s) by mouth daily
TRIAMTERENE-HYDROCHLOROTHIAZID - 37.5 mg-25 mg Tablet - 1.5
Tablet(s) by mouth once a day
 
Medications - OTC
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] -  (Prescribed by 
Other
Provider) - Dosage uncertain
DOCUSATE SODIUM - 100 mg Capsule - 1 Capsule(s) by mouth twice a
day to soften stools while taking narcotic pain medications
--------------- --------------- --------------- ---------------

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
hold for SBP<100, DBP <60 
2. BuPROPion (Sustained Release) 200 mg PO BID 
3. Citalopram 20 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
hold for SBP<100, DBP<60 
6. Levothyroxine Sodium 25 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
patient may refuse 
RX *Colace 100 mg 1 capsule(s) by mouth twice daily Disp #*60 
Tablet Refills:*2
8. Ibuprofen 600 mg PO Q6H:PRN Pain Duration: 7 Days 
do not take more than 4 pills in 1 day 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0
9. Acetaminophen w/Codeine ___ TAB PO Q4H:PRN pain 
RX *Tylenol-Codeine #3 300 mg-30 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stage III cystocele and Stage I vaginal vault prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for a robotic assisted sacral colpopexy, lysis 
of adhesions, and cystoscopy for pelvic organ prolapse. You are 
doing well and the team thinks you are ready for discharge. 

General instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  You will be given a 
prescription for a narcotic medication. We recommend taking 
650mg tylenol every 6 hours as needed in addition, which will 
decrease the amount of narcotic medication you need.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10lbs for 6 weeks.   
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
 
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
Followup Instructions:
___